US06635640B2
4-Methyl-5-(2-oxo-4-piperidin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid [3-(2-oxo-pyrrolidin-1-yl)-propyl]-amide
A mixture of 4-piperidin-4-yl-1,3-dihydroindol-2-one (35.6 mg, 0.165 mmol), 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid [3-(2-oxo-pyrrolidin-1-yl)propyl]-amide (48 mg, 0.173 mmol) and piperidine (2 drops) in ethanol (0.5 mL) was stirred at room temperature for 7 days. The reaction was concentrated and ether was added to the residue. The precipitate which formed was collected by vacuum filtration, washed with ethanol and ether and dried to give the title compound.

reactant | 4-piperidin-4-yl-1,3-dihydroindol-2-one | 0.165 mmol, 35.6 mg | N1CCC(CC1)C1=C2CC(NC2=CC=C1)=O | C13H16N2O
reactant | 5-formyl-4-methyl-1H-pyrrole-3-carboxylic acid [3-(2-oxo-pyrrolidin-1-yl)propyl]-amide | 0.173 mmol, 48 mg | O=C1N(CCC1)CCCNC(=O)C1=CNC(=C1C)C=O | C14H19N3O3
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 4-Methyl-5-(2-oxo-4-piperidin-4-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid [3-(2-oxo-pyrrolidin-1-yl)-propyl]-amide | O=C1N(CCC1)CCCNC(=O)C1=CNC(=C1C)C=C1C(NC2=CC=CC(=C12)C1CCNCC1)=O | C27H33N5O3
